US04788206
As in Example 115, (E,E)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid (2,4 g) and 4-nitrophenol (1.63 g) in 15 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (2.02 g) and the mixture was stirred at room temperature for 18 hours. Crystallization of the crude product from 2-propanol-hexane yielded 2.85 g of (E,E)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid 4-nitrophenyl ester, mp 95°-96.5° C.

reactant | (E,E)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid | 2,4 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/C(C)C | C15H18O3
reactant | 4-nitrophenol | 1.63 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.02 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid 4-nitrophenyl ester | 2.85 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/C(C)C)\C1=CC=C(C=C1)OC)=O | C21H21NO5
